US05185251
Step E: (+/-)-3-[2-(Benzoxazol-2-yl)ethyl]-5-(1-hydroxyethyl)-6-methyl-2(1H)-pyridinone
Following substantially the same procedure described in Example 3, Step F, but substituting 3-[2-(benzoxazol-2-yl)ethenyl]-5-(1-hydroxyethyl)-6-methyl-2-benzyloxypyridine for the benzyloxypyridine compound used therein, the title compound is obtained.

reactant | 3-[2-(benzoxazol-2-yl)ethenyl]-5-(1-hydroxyethyl)-6-methyl-2-benzyloxypyridine | O1C(=NC2=C1C=CC=C2)C=CC=2C(=NC(=C(C2)C(C)O)C)OCC2=CC=CC=C2 | C24H22N2O3
reactant | benzyloxypyridine | C(C1=CC=CC=C1)OC1=NC=CC=C1 | C12H11NO
product | (+/-)-3-[2-(Benzoxazol-2-yl)ethyl]-5-(1-hydroxyethyl)-6-methyl-2(1H)-pyridinone | O1C(=NC2=C1C=CC=C2)CCC=2C(NC(=C(C2)C(C)O)C)=O | C17H18N2O3
